US07423150B2
2-(2-fluoro-5-nitrophenyl)-2-methylpent-4-enal(1 eq) was dissolved in dichloromethane:methanol (3:1) and cooled to −78° C. Ozone was then bubbled through the solution until a blue color was noticed. Air was then passed through the solution followed by the addition of sodium borohydride(5 eq). Resulting solution was allowed to warm to room temperature and diluted with brine, extracted with dichloromethane. Organics were dried with sodium sulfate and concentrated to afford 2-(2-fluoro-5-nitrophenyl)-2-methylbutane-1,4-diol. The product was used in the next step with no further characterization.

reactant | 2-(2-fluoro-5-nitrophenyl)-2-methylpent-4-enal | 1 eq | FC1=C(C=C(C=C1)[N+](=O)[O-])C(C=O)(CC=C)C | C12H12FNO3
reactant | sodium borohydride | 5 eq | [BH4-].[Na+]
reactant | dichloromethane methanol | ClCCl.CO
solvent | brine | [Cl-].[Na+].O
product | 2-(2-fluoro-5-nitrophenyl)-2-methylbutane-1,4-diol | FC1=C(C=C(C=C1)[N+](=O)[O-])C(CO)(CCO)C | C11H14FNO4
